US07589114B2
Synthesis of (S)-1-[(R)-7-(3,5-Dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid amide
(S)-1-[(R)-7-(3,5-Dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid methyl ester (0.025 g, 0.04 mmol) was dissolved in 2.0 M methanolic ammonia solution (5 mL) in a sealed tube and heated to 50° C. for 48 h. The reaction was cooled to room temperature and the volatiles were removed in vacuo. The resultant residue was purified by silica gel chromatography to afford 0.018 g of the title compound (612.1, M+H).

reactant | (S)-1-[(R)-7-(3,5-Dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid methyl ester | 0.04 mmol, 0.025 g | COC(=O)[C@H]1N(CC1)S(=O)(=O)C1=CN=C2N1[C@@](C(N2C2=CC(=CC(=C2)Cl)Cl)=O)(CC2=CC=C(C=C2)C=2C=NC=NC2)C | C28H24Cl2N6O5S
reactant | ammonia | 2.0 M, 5 mL | N | H3N
product | (S)-1-[(R)-7-(3,5-Dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid amide | 0.018 g | ClC=1C=C(C=C(C1)Cl)N1C([C@](N2C1=NC=C2S(=O)(=O)N2[C@@H](CC2)C(=O)N)(CC2=CC=C(C=C2)C=2C=NC=NC2)C)=O | C27H23Cl2N7O4S
